US04002647
A solution of 4.2 g. of 3,7,7-trimethyl-2,4-octadienoic acid ethyl ester in 90 ml. of absolute diethyl ether is mixed slowly at -20° C. with stirring and under a nitrogen atmosphere with a suspension of 0.75 g. of lithium aluminum hydride in 45 ml. of absolute diethyl ether. The mixture is allowed to attain room temperature in the course of 2 hours and subsequently decomposed in the cold by the dropwise addition of 60 ml. of 10% by weight aqueous ammonium chloride solution. The resulting mass is vacuum filtered over diatomaceous earth and ethereal phase in the filtrate separated. The aqueous phase is extracted with diethyl ether and the combined ether solutions are washed with saturated sodium chloride solution, dried over sodium sulfate and evaporated. There is obtained 3,7,7-trimethyl-2,4-octadien-1-ol which is purified by distillation. Boiling point (bulb-tube distillation) 60° C./0.03 mmHg; nD20 = 1.4790.

reactant | 3,7,7-trimethyl-2,4-octadienoic acid ethyl ester | C(C)OC(C=C(C=CCC(C)(C)C)C)=O | C13H22O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,7,7-trimethyl-2,4-octadien-1-ol | CC(=CCO)C=CCC(C)(C)C | C11H20O
